US04595689
A mixture of 4-(8-bromodibenz[b,f]oxepin-10-yl)pyridine (2.0 g) in acetonitrile (30 ml) containing methyl iodide (1.1 ml) was stirred under reflux in an argon atmosphere for ninety minutes. During this time the starting material gradually dissolved and a yellow solid began to precipitate from solution. The mixture was cooled to -10° and the solids were collected by filtration and were washed in turn with cold acetonitrile and ether to give 2.7 g of 4-(8-bromo-dibenz[b,f]oxepin-10-yl)-1-methylpyridinium iodide.

reactant | 4-(8-bromodibenz[b,f]oxepin-10-yl)pyridine | 2.0 g | BrC=1C=CC2=C(C(=CC3=C(O2)C=CC=C3)C3=CC=NC=C3)C1 | C19H12BrNO
reactant | methyl iodide | 1.1 ml | CI | CH3I
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 4-(8-bromo-dibenz[b,f]oxepin-10-yl)-1-methylpyridinium iodide | 2.7 g | [I-].BrC=1C=CC2=C(C(=CC3=C(O2)C=CC=C3)C3=CC=[N+](C=C3)C)C1 | InChI=1S/C20H15BrNO.HI/c1-22-10-8-14(9-11-22)17-12-15-4-2-3-5-19(15)23-20-7-6-16(21)13-18(17)20;/h2-13H,1H3;1H/q+1;/p-1
